US04269986
Preparation of 2,2,5-Trimethyl-3-Hydroxyacetyl-1,3-Oxazolidine
Thirty-eight and three tenths g. of 2,2,5-trimethyl-3-chloroacetyl-1,3-oxazolidine, 15.6 g. of sodium formate, 24.4 g. sodium carbonate and 1 g. of tetrabutyl phosphonium bromide were combined in 100 ml. of water and allowed to stir for four days. The mixture was heated to reflux for two hours, cooled and extracted with 50 ml. of methylene chloride. The inorganic salts were filtered off and the aqueous phase extracted three times with 25 ml. portions of methylene chloride. The combined methylene chloride extracts were washed with water, dried over anhydrous magnesium sulfate and stripped under vacuum. Yield was 30.9 g. of product, m.p. 50°-53° C. The structure was confirmed by infrared, nuclear magnetic resonance and mass spectroscopy.

reactant | 2,2,5-trimethyl-3-chloroacetyl-1,3-oxazolidine | CC1(OC(CN1C(CCl)=O)C)C | C8H14ClNO2
reactant | sodium formate | C(=O)[O-].[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrabutyl phosphonium bromide | [Br-].C(CCC)[P+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
product | 2,2,5-Trimethyl-3-Hydroxyacetyl-1,3-Oxazolidine | CC1(OC(CN1C(CO)=O)C)C | C8H15NO3
